### PR TITLE
feat(Crypto): Commitment Schemes

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
Defines commitment schemes and their properties. Does not include computational hiding, but builds up to a proof that no statistically hiding, perfectly binding commitment scheme can exist. This justifies the existence of the computationally binding property, which we'll hopefully define in the future.

### CODE REVIEW

File: Cslib/Probability/StatisticalDistance.lean [hunk 1]
```diff
@@ -0,0 +1,224 @@
...
+  simp only [statisticalDistance, abs_sub_comm]
+
+/-- Statistical distance satisfies the triangle inequality. -/
+theorem statisticalDistance_triangle [Fintype α] (p q r : PMF α) :
+    statisticalDistance p r ≤ statisticalDistance p q + statisticalDistance q r := by
+  simp only [statisticalDistance, ← add_div, ← Finset.sum_add_distrib]
+  gcongr with a
+  exact abs_sub_le (p a).toReal (q a).toReal (r a).toReal
+
+/-- Statistical distance is zero exactly when the PMFs are equal. -/
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]: This should make it a full metric space together with the theorems above, right? It might make sense to add the instance which could simplify some proofs.

Comment (SamuelSchlesinger) [reply Cslib/Probability/StatisticalDistance.lean]: Yes, I agree with this.

File: Cslib/Probability/StatisticalDistance.lean [hunk 2]
```diff
@@ -0,0 +1,224 @@
...
+    ((Fintype.sum_eq_zero_iff_of_nonneg fun _ => abs_nonneg _).mp hsum) a
+
+/-- PMFs with disjoint supports are at the maximum statistical distance. -/
+theorem statisticalDistance_eq_one_of_disjoint_support [Fintype α] {p q : PMF α}
+    (h : Disjoint p.support q.support) : statisticalDistance p q = 1 := by
+  have key : ∀ a, |(p a).toReal - (q a).toReal| = (p a).toReal + (q a).toReal := by
+    intro a
+    by_cases hp : p a = 0
+    · rw [hp]
+      simp [abs_of_nonneg ENNReal.toReal_nonneg]
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
    · simp [hp]
```

File: Cslib/Probability/StatisticalDistance.lean [hunk 3]
```diff
@@ -0,0 +1,224 @@
...
+    · have hq : q a = 0 := by
+        by_contra hq
+        exact Set.disjoint_left.mp h ((p.mem_support_iff a).mpr hp)
+          ((q.mem_support_iff a).mpr hq)
+      rw [hq]
+      simp [abs_of_nonneg ENNReal.toReal_nonneg]
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
      simp [hq]
```

File: Cslib/Probability/StatisticalDistance.lean [hunk 4]
```diff
@@ -0,0 +1,224 @@
...
+  simp only [statisticalDistance, key, Finset.sum_add_distrib, sum_toReal]
+  norm_num
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
  simp [statisticalDistance, key, Finset.sum_add_distrib, sum_toReal]
```

File: Cslib/Probability/StatisticalDistance.lean [hunk 5]
```diff
@@ -0,0 +1,224 @@
...
+        exact Finset.abs_sum_le_sum_abs _ _
+    _ = ∑ b, ∑ a, (kernel a b).toReal *
+        |(p a).toReal - (q a).toReal| := by
+      congr 1 with b
+      congr 1 with a
+      rw [← sub_mul, abs_mul, abs_of_nonneg ENNReal.toReal_nonneg]
+      ring
+    _ = ∑ a, |(p a).toReal - (q a).toReal| := by
+      rw [Finset.sum_comm]
+      simp_rw [← Finset.sum_mul, sum_toReal, one_mul]
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
      simp [← Finset.sum_mul, sum_toReal]
```

File: Cslib/Probability/StatisticalDistance.lean [hunk 6]
```diff
@@ -0,0 +1,224 @@
...
+theorem refl [Fintype α] (p : PMF α) : StatisticallyClose p p 0 := by
+  simp [StatisticallyClose]
+
+/-- Statistical closeness is symmetric. -/
+theorem symm [Fintype α] {p q : PMF α} {ε : ℝ≥0}
+    (h : StatisticallyClose p q ε) : StatisticallyClose q p ε := by
+  simpa only [StatisticallyClose, statisticalDistance_comm] using h
+
+/-- A statistical-closeness bound remains valid when its error is enlarged. -/
+theorem mono [Fintype α] {p q : PMF α} {ε δ : ℝ≥0}
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]: I do like to write this as `Monotone (StatisticallyClose p q)`, but maybe this is not the recommended style?

File: Cslib/Probability/StatisticalDistance.lean [hunk 7]
```diff
@@ -0,0 +1,224 @@
...
+    StatisticallyClose p q δ :=
+  h.trans (by exact_mod_cast hεδ)
+
+/-- Closeness bounds chain through an intermediate distribution, adding the
+errors. -/
+theorem trans [Fintype α] {p q r : PMF α} {ε δ : ℝ≥0}
+    (hpq : StatisticallyClose p q ε) (hqr : StatisticallyClose q r δ) :
+    StatisticallyClose p r (ε + δ) :=
+  (statisticalDistance_triangle p q r).trans (by
+    simpa only [NNReal.coe_add] using add_le_add hpq hqr)
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
    simpa using add_le_add hpq hqr)
```
 - in general, I think the recommendation is not to use `only` for a terminal `simp` /  `simpa`

File: Cslib/Crypto/Protocols/Commitment/Scheme.lean [hunk 8]
```diff
@@ -0,0 +1,101 @@
...
+    commitment ∈ (scheme.commitmentDist message).support ↔
+      ∃ opening, (commitment, opening) ∈ (scheme.commit message).support := by
+  simp [commitmentDist]
+
+/-- The proposition that an opening is accepted for a commitment and message. -/
+def Accepts (scheme : Scheme Message Commitment Opening) (message : Message)
+    (commitment : Commitment) (opening : Opening) : Prop :=
+  scheme.verify message commitment opening = true
+
+/-- Every pair in the support of honest commitment is accepted. -/
```
Comment (crei) [inline Cslib/Crypto/Protocols/Commitment/Scheme.lean]:
```suggestion
/-- Every pair in the support of an honest commitment is accepted. -/
```

File: Cslib/Crypto/Protocols/Commitment/Scheme.lean [hunk 9]
```diff
@@ -0,0 +1,101 @@
...
+theorem accepts_of_mem_support (scheme : Scheme Message Commitment Opening)
+    {message : Message} {commitment : Commitment} {opening : Opening}
+    (h : (commitment, opening) ∈ (scheme.commit message).support) :
+    scheme.Accepts message commitment opening :=
+  scheme.correct message commitment opening h
+
+/-- Build a commitment scheme from deterministic commitment generation. -/
```
Comment (crei) [inline Cslib/Crypto/Protocols/Commitment/Scheme.lean]:
```suggestion
/-- Build a commitment scheme from a deterministic commitment generation. -/
```

File: Cslib/Probability/StatisticalDistance.lean [hunk 10]
```diff
@@ -0,0 +1,205 @@
...
+    ENNReal.toReal_sum fun a _ => p.apply_ne_top a]
+
+private theorem bind_apply_toReal [Fintype α] (p : PMF α)
+    (kernel : α → PMF β) (b : β) :
+    (p.bind kernel b).toReal =
+      ∑ a, (p a).toReal * (kernel a b).toReal := by
+  rw [PMF.bind_apply, tsum_fintype,
+    ENNReal.toReal_sum fun a _ =>
+      ENNReal.mul_ne_top (p.apply_ne_top a) ((kernel a).apply_ne_top b)]
+  simp only [ENNReal.toReal_mul]
```
Comment (crei) [inline Cslib/Probability/StatisticalDistance.lean]:
```suggestion
  simp
```

**Review by crei — APPROVED** [review]

**Comment by SamuelSchlesinger** [comment]
Paging @fmontesi

**Comment by SamuelSchlesinger** [comment]
Friendly ping @fmontesi
